US04521415
(a) 6-[4-(N-methylthiocarbamoylamino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone
In 40 ml of dry dimethylformamide (DMF) was dissolved 8.13 g of 6-(p-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone. To this solution was added 3.5 g of methyl thioisocyanate, and the mixture was stirred for 4 hours at room temperature. The mixture was stirred for an additional 30 minutes at 50° C. and the solvent was distilled off under reduced pressure. To the residue was added 50 ml of dichloromethane/ether (1:1) to precipitate crystals which were then collected by filtration and washed with dichloromethane, whereby 10.1 g of the above-identified compound was obtained. M.P. 213° C.

reactant | 6-(p-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 8.13 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | methyl thioisocyanate | 3.5 g | CSN=C=O | C2H3NOS
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 6-[4-(N-methylthiocarbamoylamino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 10.1 g | CNC(=S)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C13H16N4OS
